US07897766B2
5-(2-Nitrophenyl)-furan-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-(2-nitrophenyl)-2-furoic acid (Aldrich) according to methods A and C; yield 87 mg, 0.21 mmol (58%): 1H NMR (300 MHz, methanol-d4) δ 2.05-2.28 (m, 5H), 2.45 (s, 2H), 3.50 (s, 1H), 3.52-3.60 (m, 3H), 3.77 (d, J=13 Hz, 2H), 4.26 (s, 1H), 6.91 (d, J=4 Hz, 1H), 7.29 (d, J=3 Hz, 1H), 7.62 (dt, J=8, 2 Hz, 1H), 7.74 (dt, J=8, 1 Hz, 1H), 7.85 (dd, J=8, 1 Hz, 1H), 7.94 (dd, J=8, 1 Hz, 1H); MS (DCI/NH3) m/z 368 (M+H)+; Anal. C20H21N3O4.HCl.0.7H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-(2-nitrophenyl)-2-furoic acid | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(O1)C(=O)O | C11H7NO5
reactant | NH3 | N | H3N
product | 5-(2-Nitrophenyl)-furan-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2OC(=CC2)C2=C(C=CC=C2)[N+](=O)[O-] | InChI=1S/C20H21N3O4.ClH/c24-20(21-19-13-7-12-8-14(19)11-22(9-12)10-13)18-6-5-17(27-18)15-3-1-2-4-16(15)23(25)26;/h1-6,12-14,19H,7-11H2,(H,21,24);1H/t12?,13?,14?,19-;
